US07365065B2
4-Chlorobenzenesulfonyl chloride (10 g, 47 mmol) was added to a solution of methylamine hydrochloride (3.5 g, 52 mmol) and triethylamine (16.5 ml, 12.0 g, 119 mmol) in dichloromethane (100 ml) while cooling in an ice/water bath. The mixture was allowed to warm to room temperature and stirred for 18 h. The mixture was reduced and chromatography (30% EtOAc/70% hexanes) afforded 4-chloro-N-methylbenzenesulfonamide (7.9 g, 81%) as a colourless oil.

reactant | 4-Chlorobenzenesulfonyl chloride | 47 mmol, 10 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | methylamine hydrochloride | 52 mmol, 3.5 g | Cl.CN
reactant | triethylamine | 119 mmol, 16.5 ml, 12.0 g | C(C)N(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-chloro-N-methylbenzenesulfonamide | 7.9 g, 81% | ClC1=CC=C(C=C1)S(=O)(=O)NC | C7H8ClNO2S
